US05217958
B. N-[6-[[(Phenylmethoxy)carbonyl]amino]-1-oxohexyl]-L-phenylalanine, methyl ester
To a mixture of Z-aminocaproic acid (i.e. the title A compound) (18.6 g, 0.07), L-phenylalanine methyl ester hydrochloride (16.6 g, 0.077 mol), hydroxybenzotriazole hydrate (10.7 g, 0.07 mol) in 350 mL of dry tetrahydrofuran cooled in an ice bath was added N-methylmorpholine (7.1 g, 0.07 mol) followed by water soluble carbodiimide reagent, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (13.5 g, 0.07 mol). After stirring cold for 4 hours, the reaction was allowed to warm to ambient temperature overnight. The reaction mixture was then concentrated in vacuo and next treated with ethyl acetate (400 mL) and pH 4 phosphate buffer (200 mL). The organic phase was rinsed with saturated aqueous sodium hydrogen carbonate solution until thin layer chromatography showed the absence of Z-aminocaproic acid, then with brine and dried over anhydrous magnesium hydrate. Removal of solvents gave 28 g of crude product. This crude product was absorbed onto Baker silica gel (50 g), then flash chromatographed on Merck silica gel (400 g) eluting with 1:1 ethyl acetate:hexane. Collection of the product, eluted in yellow colored fractions, gave 23.3 g of the title B compound as a solid, m.p. 83°-85° C.

reactant | L-phenylalanine methyl ester hydrochloride | 0.077 mol, 16.6 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | hydroxybenzotriazole hydrate | 0.07 mol, 10.7 g | O.OC1=CC=CC=2NN=NC21
reactant | N-methylmorpholine | 0.07 mol, 7.1 g | CN1CCOCC1 | C5H11NO
reactant | water soluble carbodiimide | CCN=C=NCCCN(C)C.Cl
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.07 mol, 13.5 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | N-[6-[[(Phenylmethoxy)carbonyl]amino]-1-oxohexyl]-L-phenylalanine, methyl ester | C1(=CC=CC=C1)COC(=O)NCCCCCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C24H30N2O5
